US04529799
1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethyl chloride hydrochloride
1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanol (750 mg, 2.03 mmoles) and imidazole (840 mg, 12.35 mmoles) were stirred in 30 ml of acetonitrile while 720 mg of thionyl chloride was added. The reaction mixture was stirred for 18 hrs. at room temperature and the solvent was then evaporated. Dilute sodium bicarbonate solution (10 ml) was added to the residue and the mixture extracted with ethyl acetate (4×20 ml). The combined extracts were dried over magnesium sulfate, evaporated under vacuum and the residue chromatographed on 230-400 mesh silica gel using ethyl acetate-petrol (b.p. 60°-80° C.) (1:1, v:v). The fractions containing the product were combined and concentrated to dryness to give the product as a colorless gum. Treatment of the residue with ethereal hydrogen chloride gave the hydrochloride salt which was recrystallized from methanol-diisopropyl ether, 240 mg (28% yield), m.p. 120°-140° C.

reactant | 1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 2.03 mmoles, 750 mg | ClC=1C=CC(=NC1)C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C15H11Cl3N4O
reactant | imidazole | 12.35 mmoles, 840 mg | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 720 mg | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethyl chloride hydrochloride | Cl.ClC=1C=CC(=NC1)C(CN1N=CN=C1)(C1=C(C=C(C=C1)Cl)Cl)Cl | InChI=1S/C15H10Cl4N4.ClH/c16-10-1-3-12(13(18)5-10)15(19,7-23-9-20-8-22-23)14-4-2-11(17)6-21-14;/h1-6,8-9H,7H2;1H
